US09403834B2
To a solution of 1,4-dichloro-8-phenylpyrrolo[1,2-d][1,2,4]triazine (0.150 g, 0.568 mmol) in 1,4-dioxane (15 mL) and water (4 mL) was added N-(tert-butyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-sulfonamide (prepared according to WO 2011/028741) (0.232 g, 0.682 mmol) followed by potassium carbonate (0.235 g, 1.70 mmol) The reaction mixture was purged with N2 for 30 min. Bis(triphenylphosphine)palladium(II) chloride (20.0 mg, 0.0280 mmol) was added to the reaction mixture and heated at 100° C. in a sealed tube for 12 h. The reaction mixture was allowed to cool and filtered through a pad of CELITE®. The filtrate was concentrated under reduced pressure to give a residue which was suspended in water (100 mL) and extracted with ethyl acetate (3×50 mL). The combined organic layer was dried over anhydrous sodium sulfate and evaporated under reduced pressure to give a residue which was purified by silica gel column chromatography using CombiFlash (REDISEP®, silica gel, 12 g, 30% EtOAc/hexanes) to yield N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide (80.0 mg, 32.0%) as a pale yellow liquid. LCMS Method B-3: retention time 2.07 min, [M+1]=442.0. 1H NMR (400 MHz, DMSO-d6) δ ppm: 1.19 (s, 9H), 7.23 (d, J=3.2 Hz, 1H), 7.42-7.55 (m, 5H), 7.90 (d, J=3.2 Hz, 1H), 8.00 (br s, 1H), 8.73 (t, J=2.0 Hz, 1H), 9.17 (d, J=2.0 Hz, 1H), 9.22 (d, J=2.0 Hz, 1H).

reactant | 1,4-dichloro-8-phenylpyrrolo[1,2-d][1,2,4]triazine | 0.568 mmol, 0.150 g | ClC=1C=2N(C(=NN1)Cl)C=CC2C2=CC=CC=C2 | C12H7Cl2N3
reactant | N-(tert-butyl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine-3-sulfonamide | 0.682 mmol, 0.232 g | C(C)(C)(C)NS(=O)(=O)C=1C=NC=C(C1)B1OC(C(O1)(C)C)(C)C | C15H25BN2O4S
reactant | potassium carbonate | 1.70 mmol, 0.235 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | water | 4 mL | O | H2O
solvent | water | 100 mL | O | H2O
catalyst | Bis(triphenylphosphine)palladium(II) chloride | 0.0280 mmol, 20.0 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | N-(tert-butyl)-5-(1-chloro-8-phenylpyrrolo[1,2-d][1,2,4]triazin-4-yl)pyridine-3-sulfonamide | 80.0 mg, 32.0% | C(C)(C)(C)NS(=O)(=O)C=1C=NC=C(C1)C1=NN=C(C=2N1C=CC2C2=CC=CC=C2)Cl | C21H20ClN5O2S
